US05049674
Preparation of 1-hydroxymethyl-4-fluoro-2-[[(4-methoxy-2-pyridinyl)methyl]sulfinyl]-1H-benzimidazole.
4-Fluoro-2-[[(4-methoxy-2-pyridinyl)methyl]sulfinyl]-1H-benzimidazole (1.6 g, 5.2 mmol) was suspended in methylene chloride (50 ml). Methanol was added until a clear solution was obtained. The mixture was concentrated on a rotavapor under reduced pressure. The oily residue, which was not allowed to crystallize, was dissolved in methylene chloride (30 ml). A solution of formaldehyde (5 M, 10 ml, 50 mmol) was added and the mixture was stirred violently for four minutes. After separation the organic solution was dried (Na2SO4) and concentrated until 10 ml of the mixture was left. The flask was chilled for 15 minutes whereupon the formed precipitate was filtered off and washed with cold methylene chloride. In this way the title compound was obtained (1.1 g, 63%). NMR data is given below.

reactant | 4-Fluoro-2-[[(4-methoxy-2-pyridinyl)methyl]sulfinyl]-1H-benzimidazole | 5.2 mmol, 1.6 g | FC1=CC=CC=2NC(=NC21)S(=O)CC2=NC=CC(=C2)OC | C14H12FN3O2S
reactant | Methanol | CO | CH4O
reactant | formaldehyde | 50 mmol, 5 M, 10 ml | C=O | CH2O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-hydroxymethyl-4-fluoro-2-[[(4-methoxy-2-pyridinyl)methyl]sulfinyl]-1H-benzimidazole | OCN1C(=NC2=C1C=CC=C2F)S(=O)CC2=NC=CC(=C2)OC | C15H14FN3O3S
